US07902189B2
Procedure for the synthesis of 7-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrido[2,3-b][1,4]oxazin-2-one
To a 0.3 M solution of 7-bromo-1H-pyrido[2,3-b][1,4]oxazin-2-one (1 equiv) were added bis(pinacolato)diboron (1.10 equiv), potassium acetate (3.5 equiv) and 1,1′-bis(diphenylphosphino)ferrocene (0.05 equiv). The mixture was degassed with nitrogen for 20 minutes before the addition of PdCl2(dppf) (0.05 equiv) and degassing for a further 5 minutes. A condenser was attached to the reaction vessel and the mixture heated to reflux under an inert atmosphere for 16 hours. After this time, the reaction was cooled, filtered through Celite™. The cake was washed CH2Cl2 and the filtrate concentrated in vacuo before being re-dissolved in EtOAc and washed with H2O and then saturated brine. The organic fraction was separated, dried (MgSO4) and concentrated in vacuo to give a crude residue which was further purified by flash chromatography (SiO2) using 1:1—EtOAc:Hexanes going to neat EtOAc as eluent to give the desired product.

reactant | 7-bromo-1H-pyrido[2,3-b][1,4]oxazin-2-one | 1 equiv | BrC1=CC2=C(OCC(N2)=O)N=C1 | C7H5BrN2O2
reactant | bis(pinacolato)diboron | 1.10 equiv | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 3.5 equiv | C(C)(=O)[O-].[K+]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.05 equiv | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | PdCl2(dppf) | 0.05 equiv | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 7-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrido[2,3-b][1,4]oxazin-2-one | CC1(OB(OC1(C)C)C1=CC2=C(OCC(N2)=O)N=C1)C | C13H17BN2O4
